US04564473
An ozone-oxygen mixture was passed through a solution, cooled to -70° C., of 2.56 g (10 millimols) of (1S,5R)-3-benzyl-6-(2-methylprop-1-enyl)-4-oxa-2,6-diazabicyclo[3.2.0]hept-2-en-7-one (R. J. Stoodley et al., J. C. S. Perkin I 1974, 181) in 75 ml of anhydrous dichloromethane, until a blue coloration was obtained. Thereafter, flushing with nitrogen was carried out for 10 minutes, and 5.9 ml (80 millimols) of dimethyl sulphide were then added at -70° C. The mixture was stirred for 1 hour at 0° C. and for 1 hour at room temperature, and then evaporated down in vacuo. The residue was dissolved in dichloromethane, and the solution was washed with saturated NaHCO3 solution and water, and dried over MgSO4. After the solvent had been removed in vacuo, the residue was triturated with ether. 1.2 g (52%) of (1S,5R)-3-benzyl-6-formyl-4-oxa-2,6-diazabicyclo[3.2.0]hept-2-en-7-one were obtained as colorless crystals, melting point 90°-92° C.

reactant | ozone oxygen | O=[O+][O-].O=O
reactant | (1S,5R)-3-benzyl-6-(2-methylprop-1-enyl)-4-oxa-2,6-diazabicyclo[3.2.0]hept-2-en-7-one | 10 millimols, 2.56 g | C(C1=CC=CC=C1)C1=N[C@@H]2C(N([C@@H]2O1)C=C(C)C)=O | C15H16N2O2
reactant | dimethyl sulphide | 80 millimols, 5.9 ml | CSC | C2H6S
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | (1S,5R)-3-benzyl-6-formyl-4-oxa-2,6-diazabicyclo[3.2.0]hept-2-en-7-one | 1.2 g, 52% | C(C1=CC=CC=C1)C1=N[C@@H]2C(N([C@@H]2O1)C=O)=O | C12H10N2O3
